US04404230
Methyl 6-chloro-anthranilate
4.5 gm (0.212 mol) of methyl 6-chloro-2-nitro-benzoate were hydrogenated with Raney nickel in 1.8 liters of methanol until the calculated amount of hydrogen was absorbed. The filtered reaction mixture was evaporated in vacuo, and the residue was distilled in vacuo.

reactant | methyl 6-chloro-2-nitro-benzoate | 0.212 mol, 4.5 gm | ClC1=CC=CC(=C1C(=O)OC)[N+](=O)[O-] | C8H6ClNO4
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | 1.8 liters | CO | CH4O
product | Methyl 6-chloro-anthranilate | ClC=1C=CC=C(C1C(=O)OC)N | C8H8ClNO2
